************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_folder
* Top Cell Name: 8x8SRAM
* View Name:     schematic
* Netlisted on:  May 28 18:53:56 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: project_folder
* Cell Name:    6TDPMTSRAM
* View Name:    schematic
************************************************************************

.SUBCKT 6TDPMTSRAM Q Q' bit bit_n gnd sleep sleep_n vdd wl
*.PININFO sleep:I sleep_n:I wl:I Q:O Q':O bit:B bit_n:B gnd:B vdd:B
MM5 net044 Q' Q vdd PMOS_VTG W=247.5n L=50n m=1
MM4 Q' Q net044 vdd PMOS_VTG W=247.5n L=50n m=1
MM7 net044 sleep vdd vdd PMOS_VTG W=645.00n L=50n m=1
MM1 bit_n wl Q' gnd NMOS_VTG W=217.5n L=50n m=1
MM0 Q wl bit gnd NMOS_VTG W=217.5n L=50n m=1
MM3 net043 Q' Q gnd NMOS_VTG W=380.0n L=50n m=1
MM2 Q' Q net043 gnd NMOS_VTG W=380.0n L=50n m=1
MM6 net043 sleep_n gnd gnd NMOS_VTG W=430.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_folder
* Cell Name:    8x8SRAM
* View Name:    schematic
************************************************************************

.SUBCKT 8x8SRAM BL<0> BL<1> BL<2> BL<3> BL<4> BL<5> BL<6> BL<7> BLbar<0> 
+ BLbar<1> BLbar<2> BLbar<3> BLbar<4> BLbar<5> BLbar<6> BLbar<7> WL<0> WL<1> 
+ WL<2> WL<3> WL<4> WL<5> WL<6> WL<7> gnd sleep<0> sleep<1> sleep<2> sleep<3> 
+ sleep<4> sleep<5> sleep<6> sleep<7> sleepbar<0> sleepbar<1> sleepbar<2> 
+ sleepbar<3> sleepbar<4> sleepbar<5> sleepbar<6> sleepbar<7> vdd
*.PININFO WL<0>:I WL<1>:I WL<2>:I WL<3>:I WL<4>:I WL<5>:I WL<6>:I WL<7>:I 
*.PININFO sleep<0>:I sleep<1>:I sleep<2>:I sleep<3>:I sleep<4>:I sleep<5>:I 
*.PININFO sleep<6>:I sleep<7>:I sleepbar<0>:I sleepbar<1>:I sleepbar<2>:I 
*.PININFO sleepbar<3>:I sleepbar<4>:I sleepbar<5>:I sleepbar<6>:I 
*.PININFO sleepbar<7>:I BL<0>:B BL<1>:B BL<2>:B BL<3>:B BL<4>:B BL<5>:B 
*.PININFO BL<6>:B BL<7>:B BLbar<0>:B BLbar<1>:B BLbar<2>:B BLbar<3>:B 
*.PININFO BLbar<4>:B BLbar<5>:B BLbar<6>:B BLbar<7>:B gnd:B vdd:B
XI70 net372 net373 BL<0> BLbar<0> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI69 net374 net375 BL<0> BLbar<0> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI68 net376 net377 BL<0> BLbar<0> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI67 net378 net379 BL<4> BLbar<4> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI66 net380 net381 BL<6> BLbar<6> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI65 net382 net383 BL<7> BLbar<7> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI64 net384 net385 BL<5> BLbar<5> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI63 net386 net387 BL<2> BLbar<2> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI62 net388 net389 BL<3> BLbar<3> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI61 net390 net391 BL<1> BLbar<1> gnd sleep<7> sleepbar<7> vdd WL<7> / 
+ 6TDPMTSRAM
XI60 net392 net393 BL<4> BLbar<4> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI59 net394 net395 BL<6> BLbar<6> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI58 net396 net397 BL<7> BLbar<7> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI57 net398 net399 BL<5> BLbar<5> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI56 net400 net401 BL<2> BLbar<2> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI55 net402 net403 BL<3> BLbar<3> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI54 net404 net405 BL<1> BLbar<1> gnd sleep<6> sleepbar<6> vdd WL<6> / 
+ 6TDPMTSRAM
XI53 net406 net407 BL<0> BLbar<0> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI52 net408 net409 BL<4> BLbar<4> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI51 net410 net411 BL<6> BLbar<6> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI50 net412 net413 BL<7> BLbar<7> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI49 net414 net415 BL<5> BLbar<5> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI48 net416 net417 BL<2> BLbar<2> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI47 net418 net419 BL<3> BLbar<3> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI46 net420 net421 BL<1> BLbar<1> gnd sleep<5> sleepbar<5> vdd WL<5> / 
+ 6TDPMTSRAM
XI45 net422 net423 BL<4> BLbar<4> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI44 net424 net425 BL<6> BLbar<6> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI43 net426 net427 BL<7> BLbar<7> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI42 net428 net429 BL<5> BLbar<5> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI41 net430 net431 BL<2> BLbar<2> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI40 net432 net433 BL<3> BLbar<3> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI39 net434 net435 BL<1> BLbar<1> gnd sleep<4> sleepbar<4> vdd WL<4> / 
+ 6TDPMTSRAM
XI38 net436 net437 BL<0> BLbar<0> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI37 net438 net439 BL<0> BLbar<0> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI36 net440 net441 BL<4> BLbar<4> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI35 net442 net443 BL<6> BLbar<6> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI34 net444 net445 BL<7> BLbar<7> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI33 net446 net447 BL<5> BLbar<5> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI32 net448 net449 BL<2> BLbar<2> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI31 net450 net451 BL<3> BLbar<3> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI30 net452 net453 BL<1> BLbar<1> gnd sleep<3> sleepbar<3> vdd WL<3> / 
+ 6TDPMTSRAM
XI29 net454 net455 BL<4> BLbar<4> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI28 net456 net457 BL<6> BLbar<6> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI27 net458 net459 BL<7> BLbar<7> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI26 net460 net461 BL<5> BLbar<5> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI25 net462 net463 BL<2> BLbar<2> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI24 net464 net465 BL<3> BLbar<3> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI23 net466 net467 BL<1> BLbar<1> gnd sleep<2> sleepbar<2> vdd WL<2> / 
+ 6TDPMTSRAM
XI22 net468 net469 BL<0> BLbar<0> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI21 net470 net471 BL<4> BLbar<4> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI20 net472 net473 BL<6> BLbar<6> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI19 net474 net475 BL<7> BLbar<7> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI18 net476 net477 BL<5> BLbar<5> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI17 net478 net479 BL<2> BLbar<2> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI16 net480 net481 BL<3> BLbar<3> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI15 net482 net483 BL<1> BLbar<1> gnd sleep<1> sleepbar<1> vdd WL<1> / 
+ 6TDPMTSRAM
XI14 net484 net485 BL<4> BLbar<4> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI13 net486 net487 BL<6> BLbar<6> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI12 net488 net489 BL<7> BLbar<7> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI11 net490 net491 BL<5> BLbar<5> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI10 net492 net493 BL<2> BLbar<2> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI9 net494 net495 BL<3> BLbar<3> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI8 net496 net497 BL<1> BLbar<1> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
XI0 net498 net499 BL<0> BLbar<0> gnd sleep<0> sleepbar<0> vdd WL<0> / 
+ 6TDPMTSRAM
.ENDS

